US07244725B2
Preparation of Representative Chroman Intermediates
To 0.9 g (4 mmole) of sulfone ketone in 40 ml of THF is added 2.5 ml (5 mmole, 1.25 eq.) of 2 M of Lithium diisopropylamine(LDA) in heptane/THF/ethylbenzene at −60° C. The mixture is stirred for about 15 minutes, and then 1.24 ml (20 mmole, 5 eq.) of methyl iodide is added. The reaction mixture is stirred for 1 hour at −60° C., and then the cold bath is removed. After stirring overnight, the reaction mixture is partitioned between EtOAc and water, washed with 0.5N HCl, aqueous sodium bicarbonate solution, and brine, dried over anhydrous sodium sulfate, filtered and concentrated. The concentrate was purified by column chromatography to afford 0.68 g of the desired product as an oil, which solidified upon standing. TLC (30% EtOAc/Hexane, Rf=0.39). Mass spec. m/e=239.1.

reactant | methyl iodide | 20 mmole, 1.24 ml, 5 eq. | CI | CH3I
reactant | heptane THF ethylbenzene | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | Chroman | 0.68 g | O1CCCC2=CC=CC=C12 | C9H10O
